US04614614
Example 17: 2,4-dimethoxybenzyl-tert.-butylthiomethylammonium chloride
A solution of 895 mg (1.67 mmol) of 1,3,5-tris-(2,4-dimethoxybenzyl)-hexahydro-1,3,5-triazine in 10 ml of acetonitrile is added dropwise at -25° to a solution of 202 mg of hydrogen chloride in 4 ml of acetonitrile and the resulting reaction mixture is stirred for a further 15 minutes at that temperature. After the addition of 0.567 ml (5 mmol) of tert.-butylmercaptan, stirring of the mixture is continued overnight at room temperature. After concentration by evaporation under reduced pressure, taking up with methylene chloride and concentration by evaporation again, the crude title compound is obtained in the form of a foam. This is used in the next stage without further purification.

reactant | 1,3,5-tris-(2,4-dimethoxybenzyl)-hexahydro-1,3,5-triazine | 1.67 mmol, 895 mg | COC1=C(CN2CN(CN(C2)CC2=C(C=C(C=C2)OC)OC)CC2=C(C=C(C=C2)OC)OC)C=CC(=C1)OC | C30H39N3O6
reactant | hydrogen chloride | 202 mg | Cl | ClH
reactant | tert.-butylmercaptan | 5 mmol, 0.567 ml | C(C)(C)(C)S | C4H10S
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 2,4-dimethoxybenzyl-tert.-butylthiomethylammonium chloride | [Cl-].COC1=C(C[NH2+]CSC(C)(C)C)C=CC(=C1)OC | InChI=1S/C14H23NO2S.ClH/c1-14(2,3)18-10-15-9-11-6-7-12(16-4)8-13(11)17-5;/h6-8,15H,9-10H2,1-5H3;1H
